US04284631
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.1 g.), conc. hydrochloric acid (1.8 ml.), methanol (15 ml.) and tetrahydrofuran (15 ml.) was stirred at room temperature for 5 hours. After removing the solvent in vacuo, water was added to the residue and adjusted to pH 4.0 with an aqueous solution of sodium bicarbonate. The solution was subjected to column chromatography on nonionic adsorption resin "Diaion HP-20" (trademark, manufactured by Mitsubishi Chemical Industries Ltd.) and eluted with 20% isopropyl alcohol. The eluate was concentrated in vacuo and the residue was lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.56 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 2.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCOC=O | C16H15N5O8S2
reactant | hydrochloric acid | 1.8 ml | Cl | ClH
reactant | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 0.56 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCO | C14H15N5O6S2
